US08431698B2
Glyoxal synthesis step 1 is shown in FIG. 12. In a 100 mL Schlenk tube containing 46% Pd—C aerogel (110 mg, 0.47 mmol) were placed Cul (190 mg, 1 mmol), Ph3P (250 mg, 1 mmol), 4-iodoacetophenone (0.79 mmol), i-Pr2NH (0.17 mL, 1.2 mmol), deca-1-yne (8 mmol), and previously degassed dimethylformamide (DMF) (0.5 mL) under argon. This was magnetically stirred at 100° C. for a 16-h period. After cooling, the solution was removed and the catalyst was washed with DMF (3×3 mL) and recovered. The combined organic extracts were diluted in Et2O (100 mL), washed with brine (3×30 mL), dried (annh. MgSO4), and evaporated at reduced pressure. The residue (a yellow oil) was purified by preparative high pressure column chromatography (silica gel, n-hexane-EtOAc, 99.5:0.5) to give the product, 1-(4-(dec-1-ynyl)phenyl)ethanone as a yellow oil; yield: 96% 1H NMR (CDCl3): d=7.87 d,(2 H), 7.53 (d, 2 H), 2.55 (s, 3 H), 2.03 (2 H), 1.46 (2 H), 1.31 (m, 10 H), 0.86 (3 H) 13C NMR (CDCl3): d=CH3,14.0; CH2 22.6; CH2 31.5,; CH2 29.3; CH2 28.7; CH2 28.4; CH2 28.7; CH2 18.7; C (alkyne) 100.1; C (alkyne) 78.5; CH3 29.3; C (carbonyl) 199.8; C 136.4; CH 128.4; CH 132.2; C 127.1; CH 132.2; CH 128.4

reactant | Glyoxal | C(=O)C=O | C2H2O2
reactant | Ph3P | 1 mmol, 250 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-iodoacetophenone | 0.79 mmol | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | i-Pr2NH | 1.2 mmol, 0.17 mL | N(C(C)C)C(C)C | C6H15N
reactant | deca-1-yne | 8 mmol | C#CCCCCCCCC | C10H18
catalyst | Pd—C | [Pd] | Pd
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 1-(4-(dec-1-ynyl)phenyl)ethanone | C(#CCCCCCCCC)C1=CC=C(C=C1)C(C)=O | C18H24O
